US06852731B2
2-[methyl(trityl)amino]ethanol
A mixture of 2-methylamino-ethanol (5.0 gr, 66.6 mmol) and triphenylmethyl chloride (18.6 g, 66.6 mmol) in 150 mL of CH2Cl2 was treated with triethylamine (9.3 mL, 66.6 mmol) and stirred at room temperature for 2 h. The solvent was removed in vacuum and the residue was dissolved in EtOAc (200 mL). The organic solution was washed with water (100 mL) and brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on a Flash 40M silica gel (90 g, 32-63 μm) cartridge, eluting with 20% EtOAc in n-heptane, and those fractions with Rf=0.5 by TLC (EtOAc/hexane, 3/7) were combined and concentrated in vacuo to give 18.7 g of the product as a white solid.

reactant | 2-methylamino-ethanol | 66.6 mmol, 5.0 gr | CNCCO | C3H9NO
reactant | triphenylmethyl chloride | 66.6 mmol, 18.6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 66.6 mmol, 9.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-[methyl(trityl)amino]ethanol | 18.7 g | CN(CCO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H23NO
